US05849797
In 18 ml of methanol were suspended 144 mg (0.238 mmol) of (R)-3,6-bis(benzyloxycarbonylamino)-N-(3-benzyloxycarbonylaminopropyl)hexanamide. To the resulting suspension was added a suspension of 81.0 mg of 10% palladium-carbon in 2 ml of water, followed by stirring. Hydrogen gas was passed through the resulting mixture at room temperature for 3 hours to effect the hydrogenolysis reaction. The palladium-carbon was filtered off from the reaction mixture obtained, and the filtrate was then concentrated to dryness. The residue obtained was dissolved in 1 ml of water and the resulting solution was subjected to chromatography on a column of "Amberlite CG-50" (trade name, NH4+ -form, 5 ml). After the column was washed with 25 ml of water, the column was eluted with aqueous ammonia at concentrations gradiently varying from 0.5% to 7.0% (0.5%-increased steps; 25 ml at each concentration). Fractions of the eluate as eluted with 4.0% to 6.0% aqueous ammonia were combined together and concentrated to dryness, to afford 48.2 mg of (R)-3,6-diamino-N-(3-aminopropyl)hexanamide as a colorless paste.

reactant | (R)-3,6-bis(benzyloxycarbonylamino)-N-(3-benzyloxycarbonylaminopropyl)hexanamide | 0.238 mmol, 144 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(=O)NCCCNC(=O)OCC1=CC=CC=C1)CCCNC(=O)OCC1=CC=CC=C1 | C33H40N4O7
reactant | Hydrogen | [H][H] | H2
solvent | methanol | 18 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
solvent | water | 1 ml | O | H2O
catalyst | palladium-carbon | 81.0 mg | [C].[Pd]
product | (R)-3,6-diamino-N-(3-aminopropyl)hexanamide | 48.2 mg | N[C@@H](CC(=O)NCCCN)CCCN | C9H22N4O
